US04826866
3-[(3-Chlorophenyl)amino]-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester
A stirred slurry of 8 g (0.04 mole) of 4-(3-chlorophenyl)-3-thiosemicarbazide in 75 mL of absolute ethanol was treated with 6.8 g (0.04 mole) of ethyl 2-chloroacetoacetate. The reactants quickly dissolved but a precipitate soon formed. After stirring at room temperature for 2 hr the reaction mixture was treated with 40 mL of 2N ethanolic hydrogen chloride and heated at reflux for 1 hr, then filtered while hot to remove the insoluble sulfur. The filtrate on cooling yielded 3.5 g of yellow solid and an additional 4.7 g was obtained when the filtrate was concentrated in vacuo. Recrystallization from benzene/ligroin gave 4.2 g of pale yellow brown product. Additional ligroin added to the filtrate gave, upon cooling at ~7°-10° C. for ~16 hr, additional crystals but also some oil; this tri-phase mixture was filtered to yield 1.5 g of additional product. Both solids had identical spectra. They were combined and recrystallized twice from benzene/ligroin and finally from benzene by dissolving the solids and reducing the volume until crystallization began. Upon cooling, 3.93 g of beige plate-like crystals were collected, mp 159.5°-160° C.

reactant | 4-(3-chlorophenyl)-3-thiosemicarbazide | 0.04 mole, 8 g | ClC=1C=C(C=CC1)NC(NN)=S | C7H8ClN3S
reactant | ethyl 2-chloroacetoacetate | 0.04 mole, 6.8 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 40 mL | Cl | ClH
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 3-[(3-Chlorophenyl)amino]-5-methyl-1H-pyrazole-4-carboxylic acid, ethyl ester | 3.5 g | ClC=1C=C(C=CC1)NC1=NNC(=C1C(=O)OCC)C | C13H14ClN3O2
